US06583141B1
) A solution of N,N-diethylethanamine (0.544 mol) in ethanol (600 ml) was added dropwise to a stirred suspension of N-hydroxy-3-pyridinecarboximidoyl chloride (0.259 mol) and methyl 2-propenoate (1.295 mol) in ethanol (1500 ml) over a period of 1 hour. The reaction mixture was stirred for 1 hour at RT. The reaction mixture was evaporated. The residue was mixed with diethyl ether and filtered. The organic layer was separated, washed three times with water, separated again, dried (MgSO1), filtered and left overnight. Partial crystallization occurred on overnight standing. The crystals were filtered and dried and the filtrate was evaporated, yielding 52.6 g (98%) of (±)-methyl 4,5-dihydro-3-(3-pyridinyl)-5-isoxazolecarboxylate (interm. 1).

reactant | N,N-diethylethanamine | 0.544 mol | C(C)N(CC)CC | C6H15N
reactant | N-hydroxy-3-pyridinecarboximidoyl chloride | 0.259 mol | ON=C(C=1C=NC=CC1)Cl | C6H5ClN2O
reactant | methyl 2-propenoate | 1.295 mol | C(C=C)(=O)OC | C4H6O2
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | ethanol | 1500 ml | C(C)O | C2H6O
product | (±)-methyl 4,5-dihydro-3-(3-pyridinyl)-5-isoxazolecarboxylate | 52.6 g, 98% | N1=CC(=CC=C1)C1=NOC(C1)C(=O)OC | C10H10N2O3
